datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[O]2.[H][O:10][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](=[O:10])N1C)CCCCCC)CCCCCC.[O-:21]CCCCCC>>CCCCCCC1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)CCCCCC)CCCCCC 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21]C)[O][CH](C)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[O]2.CC[S:10][H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21][H])[O]C([H])C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C([H])C(C8=CC=CC=C8)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[O:10]([K])C(CCC)/C(C)=C([C:20]([H])=[O:21])/C>>[O-:21][C:20]1([H])[O+:10]([K])C(CCC)C(C)=C1C 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(CC)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](C)C(C)[CH](CC)[NH]1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O]C(C)C(C8=CC=CC=C8)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]CC)[O]C(C)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)CCCCCC>>[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(CC)C(C8=CC=CC=C8)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(CC)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[OH:21][C:20]1(C)C(C)C([H])C(C)C([H])[OH+:10]1>>[OH:10]C([H])C(C)C([H])C(C)[C:20](C)=[OH+:21] 21=20;20,10=10"
"C[S+:10]([H])[C:20]([O:21]C)([O]C)[O]C.[Cl-]>>[Cl-].C[S:10][H].C[O+:21]=[C:20]([O]C)[O]C 21=20;20,10=10"
"[H][NH+:10](C([H])C(CC)[NH]1)[C:20]1([NH:21]C)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C(CC)[NH][C:20]([NH][H])=[NH+:21]C 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]([NH:21]C)([NH][H])[O]CC.[Cl-]>>[Cl-].CC[NH:10][H].C[NH+:21]=[C:20]([NH][H])[O]CC 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])[H])[H].[O-:21]C1=CC=CC=C1>>C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)[H])[H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH]C([H])C(C8=CC=CC=C8)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH]C([H])C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH]C(CC)C([H])[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[NH]C(CC)C([H])[O]1 10=20;20,21=21"
"CC1C(C(O[C:20](N1CCCCCC)([O-:10])[Cl:21])C)CC>>CC1C(C(O[C:20](=[O:10])N1CCCCCC)C)CC.[Cl-:21] 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C)[O]C(CC)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C(CC)C(C8=CC=CC=C8)[NH]2.[H][O:10][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C)[O]CC.[Cl-]>>[Cl-].CC[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C)[O]CC 21=20;20,10=10"
"[H][NH+:10](C(CC)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C(C8=CC=CC=C8)[O][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[O]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"C[S+:10]([H])[C:20]([O:21][H])([O][H])[O]CC.[Cl-]>>[Cl-].C[S:10][H].[H][O+:21]=[C:20]([O][H])[O]CC 21=20;20,10=10"
"[H][NH:10]C(CC)C([H])[O][C:20]([O][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])[O]1)[C:20]1([NH:21][H])[O][H] 10=20;20,21=21"
"[H][S:10]C(CC)C(C)C(C)[O][C:20]([O][H])=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)C(C)[O]1)[C:20]1([O:21][H])[O][H] 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)CC)[O-:10])[H]>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)CC)[H] 10=20;20,21=21"
"[O:10]([K])C(C)C(C)C([H])C([H])[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])C([H])C(C)C(C)[O+:10]1([K]) 10=20;20,21=21"
"C9=CC=CC=C9[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C)[NH]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C)[NH]CC 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([NH:21]C)([O]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[O:10][H].C[NH+:21]=[C:20]([O]C8=CC=CC=C8)[O]C7=CC=CC=C7 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])[NH][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])[NH]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[O][CH](C)C(C)[CH]([H])[O]1 10=20;20,21=21"
"CC1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)CC)[H]>>CC1C(C(O[C:20](=[O:10])N1C)CC)[H].[O-:21]CCCCCC 10=20;20,21=21"
"C[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C)[S]C7=CC=CC=C7 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C8=CC=CC=C8)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](CC)C(C)[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
